US07064124B2
N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-2,4-dichloroaniline
2,4-Dichloroaniline (0.383 g, 2.366 mmol), triethylamine (0.239 g, 2.366 mmol) and 2-chloro-1,3-dimethylimidazolinium chloride (0.400 g, 2.366 mmol) were added to a methylene chloride solution (100 ml) of 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid (0.295 g, 0.789 mmol) and the resulting solution was stirred at room temperature for 10 hours. The reaction solution was poured into ice water and then extracted with methylene chloride. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was purified by preparative thin-layer chromatography (chloroform:methanol=10:1) and then recrystallized from ether to obtain the titled compound (0.150 g, 0.289 mmol, 37%).

reactant | 2,4-Dichloroaniline | 2.366 mmol, 0.383 g | ClC1=C(N)C=CC(=C1)Cl | C6H5Cl2N
reactant | triethylamine | 2.366 mmol, 0.239 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 2.366 mmol, 0.400 g | [Cl-].ClC1[NH+](CCN1C)C
reactant | 3-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoic acid | 0.789 mmol, 0.295 g | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)O)C=CC1)OC(C)=O)C)=O | C19H18O8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | N-[3-(5,6-Dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzoyl]-2,4-dichloroaniline | 0.289 mmol, 0.150 g, 37% | COC=1C(C(=C(C(C1OC)=O)CC=1C(=C(C(=O)NC2=C(C=C(C=C2)Cl)Cl)C=CC1)OC(C)=O)C)=O | C25H21Cl2NO7
